US06624163B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-(propionylamino-methyl)-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yi)-4-aminomethyl-benzamide and propionyl chloride, the title compound was prepared as off-white crystals (34% yield). MS: m/e=455(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yi)-4-aminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN)=O)N2CCOCC2 | C20H22N4O3S
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-(propionylamino-methyl)-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CNC(CC)=O)=O)N2CCOCC2 | C23H26N4O4S
